US08563617B2
271.2 N-(2-{[8-(3,5-Difluorobenzyl)-7-(formylamino)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}ethyl)-1-methyl-1H-pyrrole-3-sulfonamide
Ethyl[1-(3,5-difluorobenzyl)-7-(2-{[(1-methyl-1H-pyrrol-3-yl)sulfonyl]amino}ethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate (200 mg, 0.365 mmol) was dissolved in tetrahydrofuran (16 mL). A 1 M solution of lithium aluminium hydride in tetrahydrofuran (0.73 mL, 0.73 mmol) was added dropwise at room temperature. The reaction mixture was heated to 50° C. for 2 h. Under cooling 2N sodium hydroxide solution (3 mL) was added dropwise. Water (30 mL) and ethyl acetate (30 mL) were added. The aqueous phase was extracted twice with ethyl acetate. The combined extracts were dried (MgSO4) and the solvent was evaporated in vacuo. The crude product was purified by flash chromatography (silica gel, dichloromethane, methanol). Yield: 61 mg (0.116 mmol, 32%).

reactant | Ethyl[1-(3,5-difluorobenzyl)-7-(2-{[(1-methyl-1H-pyrrol-3-yl)sulfonyl]amino}ethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | 0.365 mmol, 200 mg | C(C)OC(NC1C(C2=CC(=CC=C2CC1)OCCNS(=O)(=O)C1=CN(C=C1)C)CC1=CC(=CC(=C1)F)F)=O | C27H31F2N3O5S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2N, 3 mL | [OH-].[Na+]
reactant | Water | 30 mL | O | H2O
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.73 mmol, 0.73 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-{[8-(3,5-Difluorobenzyl)-7-(formylamino)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}ethyl)-1-methyl-1H-pyrrole-3-sulfonamide | FC=1C=C(CC2C(CCC=3C=CC(=CC23)OCCNS(=O)(=O)C2=CN(C=C2)C)NC=O)C=C(C1)F | C25H27F2N3O4S
